US04794188
2-(3-(6,6,6-Trifluorohexanoyl)phenoxymethyl) quinoline
A mixture of 3-(6,6,6-trifluorohexanoyl)phenol (6.8 g, 27 mmol) and 2-chloromethylquinoline (4.4 g, 25 mmol) in DMSO (75 ml) containing 2N NaOH solution (14 ml) was stirred at room temperature overnight (13 hrs.). The dark reaction mixture was poured into water (200 ml) and the aqueous solution was extracted with ethyl acetate (4×30 ml). The organic extract was washed with 1N NaOH solution, water and brine and then dried over MgSO4. After removal of all volatiles, a dark liquid was obtained which solidified on standing (7.2 g). This solid was chromatographed (3% ethanol in toluene on silica gel) to obtain a beige color solid (4.5 g; mp 83°-4° C.), which was chromatographed again (15% acetone in hexanes on silica gel) to get a white solid (3.1 g; mp 86°-87° C.). This pure material was recrystallized from hexanes-acetone (trace) to leave the desired compound as a colorless, crystalline solid (2.4 g), mp 88°-88.5° C. (first crop; second crop mp 87°-88° C.).

reactant | 3-(6,6,6-trifluorohexanoyl)phenol | 27 mmol, 6.8 g | FC(CCCCC(=O)C=1C=C(C=CC1)O)(F)F | C12H13F3O2
reactant | 2-chloromethylquinoline | 25 mmol, 4.4 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | NaOH | 2N, 14 ml | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | DMSO | 75 ml | CS(=O)C | C2H6OS
product | 2-(3-(6,6,6-Trifluorohexanoyl)phenoxymethyl) quinoline | FC(CCCCC(=O)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1)(F)F | C22H20F3NO2
